US07528143B2
A mixture of 4-bromo-1-chloro-2-(trifluoromethyl)benzene (259 mg, 1.0 mmol), 4-amino-2-chloro-5-methylpyrimidine (143 mg, 1.0 mmol), Pd2(dba)3 (9 mg, 0.01 mmol), xantphos (14 mg, 0.02 mmol) and cesium carbonate (650 mg, 2.0 mmol) in dioxane (15 mL) was heated under refluxed for 10 h under argon. The solvent was removed and the residue was purified by HPLC to give an intermediate 2-chloro-N-(4-chloro-3-(trifluoromethyl)phenyl)-5-methylpyrimidin-4-amine as brown solid (200 mg, 62%). A mixture of this intermediate (161 mg, 0.5 mmol) and 4-(2-(pyrrolidin-1-yl)ethoxy)benzenamine (103 mg, 0.5 mmol) in glacial acetic acid (5 mL) was heated under refluxed for 3 h under argon. The crude reaction mixture on purification using HPLC gave the title compound as brown solid (75 mg, 31%).

reactant | 4-bromo-1-chloro-2-(trifluoromethyl)benzene | 1.0 mmol, 259 mg | BrC1=CC(=C(C=C1)Cl)C(F)(F)F | C7H3BrClF3
reactant | 4-amino-2-chloro-5-methylpyrimidine | 1.0 mmol, 143 mg | NC1=NC(=NC=C1C)Cl | C5H6ClN3
reactant | cesium carbonate | 2.0 mmol, 650 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.01 mmol, 9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | xantphos | 0.02 mmol, 14 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 2-chloro-N-(4-chloro-3-(trifluoromethyl)phenyl)-5-methylpyrimidin-4-amine | 200 mg, 62% | ClC1=NC=C(C(=N1)NC1=CC(=C(C=C1)Cl)C(F)(F)F)C | C12H8Cl2F3N3
